US08058269B2
To a mixture of rac-3-[(2-Amino-ethyl)-isopropyl-amino]-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one (50 mg, 0.13 mmol) and K2CO3 (35 mg, 0.25 mmol) in DCM (2 mL) was added methylsulfonyl chloride (16 mg, 0.14 mmol). The resulting solution was stirred at room temperature for 2 hr, then purified by flash column chromatography to give 65 mg rac-N-(2-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-isopropyl-amino}-ethyl)-methanesulfonamide. MS: [M+H]+=470

reactant | rac-3-[(2-Amino-ethyl)-isopropyl-amino]-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | 0.13 mmol, 50 mg | NCCN(C1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl)C(C)C | C20H23Cl2N3O
reactant | K2CO3 | 0.25 mmol, 35 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methylsulfonyl chloride | 0.14 mmol, 16 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | rac-N-(2-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-isopropyl-amino}-ethyl)-methanesulfonamide | 65 mg | ClC1=CC=C2C(C(NC2=C1)=O)(CC1=CC(=CC=C1)Cl)N(CCNS(=O)(=O)C)C(C)C | C21H25Cl2N3O3S
